Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vertigo
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
REASON FOR CONSULTATION:
Vertigo with concern for posterior circulation stroke
 
HISTORY OF PRESENT ILLNESS:
Patient is a ___ year old right handed woman with past medical
history of stroke more than ___ years ago without residual
weakness, atrial fibrillation on rivaroxaban and aspirin,
hypertension, hyperlipidemia, and insulin dependent diabetes 
whom
presents because of persistent vertigo. 

Patient reports that she was at her baseline throughout
yesterday, but awoke from a nap in the afternoon with sensation
that room was spinning around her.  Patient endorses that 
vertigo
was present with laying still and that she could initially not
tolerate sitting up or standing because of symptoms.  Patient
decided to stay in bed for the remainder of the afternoon and
evening and went to sleep.  

Patient awoke this morning and continued to have vertigo. 
Patient walked to the restroom and was having difficulty
maintaining balance with need for use of wall and furniture for
support.  Patient denied veering to one direction or another.
Patient felt that the vertigo was of equal intensity with laying
and standing.  

Patient came to the hospital with encouragement of daughter
because of persistence of symptoms.  

In ED, patient endorsed that she was continuing to have vertigo
when laying bed and that it was not altered by standing.  
Patient
denied that there was any positional element. Patient does 
report
that over the last few hours the vertigo has become more 
episodic
with short periods of feeling normal.  

Patient had NCHCT in ED which revealed chronic infarct of the
right cerebellar hemisphere.  Patient, pertinently, presented
___ with vertigo, but remarks that the symptoms then were of
much shorter duration and had a positional component.  Patient
had MRI brain during this admission which revealed the right
cerebellar infarct that was seen on today's imaging. 

Patient reports good fluid intake.  Denies symptoms of 
infection.
Denies chest pain and shortness of breath.  Patient denies
hearing loss or tinnitus.  

 
Past Medical History:
AF on rivaroxaban, HTN, HLD, DM II
CAD no interventions
HFrEF, though EF 35-40% on ___ echo
primary hyperaldosteronism - diagnosed ___
thymic mass s/p thymectomy ___
hyperparathyroidism s/p three gland parathyroidectomy ___

 
Social History:
___
Family History:
Pancreas and liver cancer.
Mother: colon cancer
Father: CHF  

 
Physical ___:
Neurologic:
Mental Status: 
Alert, oriented x 3. Able to relate history without difficulty.
Attentive, able to name months of the year backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. Able to register 3 objects and recall
___ at 5 minutes. There was no evidence of apraxia or neglect.

Cranial Nerves:
No visual field cut.  Physiologic anisoroia with right pupil
slightly than left by less than 1 mm.  EOMI. Pursuit is smooth.
Saccades are normal and without intrusions .  No nystagus on
fixation or end gaze. ___ is negative.  Head impulse 
test
is with corrective saccade. Cover uncover is without skew.  She
can use visual fixation to suppress the vestibular ocular 
reflex.
Facial sensation is symmetric.  Facial musculature is symmetric. 

Hearing is intact.  Palate elevates symmetrically. Uvula 
midline.
SCM ___. Tongue protrudes to midline with forceful lateral
excursions.    

Motor: 
Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

Sensory: 
No deficits to light touch, pinprick, temperature,  vibration, 
or
proprioception throughout. No extinction to DSS. Romberg absent. 


Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

Coordination: 
No hypo or hypermetria.  No rebound of outstretched arms.  No
dysmetria with finger nose finger or heal to shin.  Accurate 
with
hitting crease of thumb with index finger.  Fluid alternating
movements.  No retropulsion with standing.  

Gait: 
Good initiation. Narrow-based, normal stride and arm swing. able 
to tandem
 

 
Pertinent Results:
___ 01:57PM BLOOD WBC-6.4 RBC-4.36 Hgb-12.0 Hct-37.3 MCV-86 
MCH-27.5 MCHC-32.2 RDW-12.8 RDWSD-39.2 Plt ___
___ 01:57PM BLOOD Neuts-64.4 ___ Monos-9.9 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.10 AbsLymp-1.43 AbsMono-0.63 
AbsEos-0.12 AbsBaso-0.03
___ 01:57PM BLOOD ___ PTT-35.3 ___
___ 01:57PM BLOOD Glucose-430* UreaN-20 Creat-1.1 Na-136 
K-4.5 Cl-92* HCO3-27 AnGap-17
___ 01:57PM BLOOD ALT-26 AST-17 AlkPhos-122* TotBili-0.2
___ 08:16AM BLOOD CK-MB-2 cTropnT-<0.01
___ 08:16AM BLOOD TotProt-7.1 Albumin-4.2 Globuln-2.9 
Cholest-PND
___ 08:16AM BLOOD %HbA1c-12.7* eAG-318*
___ 08:16AM BLOOD Triglyc-PND HDL-PND
___ 08:16AM BLOOD TSH-PND
___ 08:16AM BLOOD CRP-4.4
___ 08:16AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Barbitr-NEG Tricycl-NEG
___ 02:23PM URINE Color-Straw Appear-Clear Sp ___
___ 02:23PM URINE Blood-TR* Nitrite-NEG Protein-NEG 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 
Leuks-NEG
___ 02:23PM URINE RBC-0 WBC-<1 Bacteri-FEW* Yeast-NONE 
Epi-<1

CTA
1. Unenhanced head CT demonstrates no intracranial hemorrhage, 
mass, edema or evidence of acute large territory infarct. 
2. Vessels of the circle of ___ and their major branches are 
patent without stenosis, occlusion or aneurysm formation. 
3. The carotid arteries are patent from their origin with 
minimal plaque at the right greater than left carotid 
bifurcation that does not cause stenosis. The internal carotid 
arteries are patent bilaterally without stenosis by NASCET 
criteria. 
4. The vertebral arteries are patent from their origin 
bilaterally without 
evidence for stenosis, dissection or occlusion. 
5. 4 mm right upper lobe nodule (03:15). 
6. Multinodular thyroid gland, with the largest nodule on the 
right measuring 12 mm. 
7. Final report pending 3D reformats. 

 
Brief Hospital Course:
___ woman with multiple vascular risk factors, including 
prior stroke, atrial fibrillation on River Oxilan and aspirin, 
hypertension, hyperlipidemia, insulin-dependent diabetes 
mellitus, who initially presented with persistent vertigo.  She 
reported a positional vertigo that did not dissipate initially 
on rest.  ED evaluation was notable for hyperglycemia to 430.  
She reported some recent changes with her diabetes medications, 
followed usually by her primary care.  There were no neighboring 
signs or symptoms, or additional review of system features 
suggestive of a peripheral vestibulopathy, such as neuronitis, 
or Ménière's disease,.  Her exam was not suggestive of central 
vertigo, though given her risk factors, she was admitted for 
stroke workup.  Her CTA was unremarkable.  MRI did not reveal 
any stroke, but did show an evolution of white matter disease in 
the periventricular areas.  Therefore, the most likely etiology 
of her symptoms was felt to be hyperglycemia causing 
vertigo-like symptoms, versus benign paroxysmal positional 
vertigo.  Her vertigo-like symptoms dissipated overnight into 
the next morning after admission.  Her blood sugars were better 
controlled while admitted, though her A1c was 12.7 reflecting 
likely poorly controlled diabetes as an outpatient. She 
indicated a desire to follow-up with her primary care provider, 
but as well as the ___ further 
management.  She was advised to stay hydrated to avoid the 
effect of glucose related diuresis.

Transitional issues
[ ] Close PCP follow up, referral to ___ for diabetes 
management

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? () Yes (LDL = ) - (x) No  (no acute ischemic 
stroke)
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - () No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No. If no, why not? Able to ambulate without 
assistance (I.e. patient at baseline functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - (x) Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) () N/A  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carvedilol 25 mg PO DAILY 
5. 70/30 25 Units Breakfast
70/30 35 Units Dinner
6. irbesartan 300 mg oral DAILY 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Rivaroxaban 20 mg PO DAILY 
9. Torsemide 40 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1.  70/30 25 Units Breakfast
70/30 35 Units Dinner 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Carvedilol 25 mg PO DAILY  
6.  irbesartan 300 mg oral DAILY  
7.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
8.  Rivaroxaban 20 mg PO DAILY  
9.  Torsemide 40 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  
11.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertigo in the setting of hyperglycemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Your admitted to the hospital for vertigo, or a room spinning 
sensation.  Sometimes, vertigo is caused by stroke in part of 
the brain, so you are admitted for close monitoring and further 
workup.  Thankfully, your MRI did not show any strokes.  You 
felt better the next day in terms of vertigo, and you were able 
to walk around the hospital without any issues.  The most likely 
explanation for your symptoms therefore is something called 
benign paroxysmal positional vertigo, which can occur when the 
inner ear has problems with debris that builds up over time.  
The other possibility is your elevated blood sugars, which can 
certainly cause dizziness that may mimic vertigo.  In addition, 
the sugar in your blood can act as a diuretic medicine, removing 
more fluid than you are able to make up for by drinking.  This 
may lead to additional lightheadedness and feelings of dizziness 
which may have contributed to her symptoms.  If this happens 
again, you may be referred either to a neurologist or ___ 
rehab to help you with the symptoms, during which they may 
perform certain maneuvers to clear the debris from your year.  
Please contact your primary care provider if the symptoms recur. 
 However, if the symptoms persist, or are accompanied by changes 
in vision, including double vision, or weakness or sensation 
changes, please report to the nearest emergency department as 
they may reflect stroke.  Otherwise, please continue all of your 
medications as directed and do not miss doses.

It was a pleasure taking care of you.

___ neurology

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___